US08426420B2
i) (R)-2-Methyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-ethyl ester
To a solution of 1.50 g (R)-4-N-Boc-2-methyl-piperazine in 10 ml dichloromethane were added at 0° C. 2.29 ml triethylamine and 0.72 ml ethyl chloroformate. After 12 h the reaction mixture was diluted with dichloromethane and extracted with 0.1 M HCl and saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and the crude product obtained after evaporation of the solvent was used in the subsequent reaction.

reactant | (R)-4-N-Boc-2-methyl-piperazine | 1.50 g | C(=O)(OC(C)(C)C)N1C[C@H](NCC1)C | C10H20N2O2
reactant | triethylamine | 2.29 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.72 ml | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-2-Methyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-ethyl ester | C(C)OC(=O)N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C | C13H24N2O4
